US06127541
3-Morpholinobenzonitrile
3-Cyanophenol (1.77 g, 14.9mmol) and triethylamine (6.30 ml, 45.2 mmol) were dissolved in methylene chloride (75 ml) and stirred at -10° C. in an argon gas atmosphere. A solution of trifluoroacetic anhydride (3.79 ml, 22.5 mmol) dissolved in methylene chloride (15 ml) was added dropwise thereto, and after the addition was completed, the mixture was stirred for 1.5 hours. After the reaction was completed, the solvent was removed under reduced pressure, and an aqueous solution of sodium hydrogen carbonate was added to the resulting concentrated residue and the mixture was extracted with methylene chloride. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over sodium sulfate. The drying agent was filtered off and the filtrate was concentrated. The resulting concentrated residue was purified by silica gel column chromatography (chloroform/methanol=100) to give oily substances. The resulting oily substances were dissolved in acetonitrile (40 ml). Morpholine (33.0 ml, 378 mmol) was added thereto and the mixture was stirred for 3 days under heating at reflux. The solvent and unreacted reagents were distilled off under reduced pressure, water was added to the concentrated residue, and the mixture was extracted with chloroform. The organic layer was dried (over sodium sulfate), the drying agent was filtered off, and the filtrate was concentrated. The resulting concentrated filtrate was purified by silica gel column chromatography (eluent: chloroform/hexane=1/2) to give the title compound (0.74 g, 26%) as oily substances.

reactant | 3-Cyanophenol | 14.9mmol, 1.77 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | triethylamine | 45.2 mmol, 6.30 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 22.5 mmol, 3.79 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Morpholine | 378 mmol, 33.0 ml | N1CCOCC1 | C4H9NO
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 3-Morpholinobenzonitrile | 0.74 g, 26% | O1CCN(CC1)C=1C=C(C#N)C=CC1 | C11H12N2O
